US04090025
1-(2-butoxyethyl)-4-phenyl-2-imidazolidone
A solution of 1-(2-butoxyethyl)-4-phenyl-4-imidazolin-2-one in ethanol with 10% palladium or carbon catalyst is reduced in an atmosphere of hydrogen. After the theoretical amount of hydrogen is absorbed, the catalyst is filtered and filtrate concentrated to give the title compound.

reactant | 1-(2-butoxyethyl)-4-phenyl-4-imidazolin-2-one | C(CCC)OCCN1C(NC(=C1)C1=CC=CC=C1)=O | C15H20N2O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | 1-(2-butoxyethyl)-4-phenyl-2-imidazolidone | C(CCC)OCCN1C(NC(C1)C1=CC=CC=C1)=O | C15H22N2O2
